US06288082B1
6-Amino-4-(1H-indol-5-ylamino)-quinoline-3-carbonitrile
Covered 200 mg of 10% Palladium on carbon with 75 ml ethanol. Added 2.00 g (6.07 mmol) 4-(1H-indol-5-ylamino)-6-nitro-quinoline-3-carbonitrile and 477 μl (15.2 mmol) hydrazine. Heated to reflux under N2 for 2 hours. Filtered hot through celite and washed through with hot methanol. Removed solvent and dried in vacuo (50° C.), giving 1.89 g brown solid: mass spectrum (m/e electrospray): M+H=300.2.

reactant | 4-(1H-indol-5-ylamino)-6-nitro-quinoline-3-carbonitrile | 6.07 mmol, 2.00 g | N1C=CC2=CC(=CC=C12)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C18H11N5O2
reactant | hydrazine | 15.2 mmol, 477 μl | NN | H4N2
catalyst | Palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 6-Amino-4-(1H-indol-5-ylamino)-quinoline-3-carbonitrile | 1.89 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC=1C=C2C=CNC2=CC1 | C18H13N5
